US04322271
N-α-Methoxyethyl-N-methyl-acetamide
1,800 g of 50% strength sodium hydroxide solution, 900 g of sodium hydroxide in the form of flakes and 300 g of methyl chloride are initially introduced into a pressure kettle provided with an anchor stirrer. 1,760 g of N-α-methoxyethyl-acetamide and 1,000 g of methyl chloride are uniformly metered in over a period of 3 hours. After a further 3 hours, the kettle is depressurized and the contents are degassed by passing in nitrogen. The reaction product with a lower specific gravity is separated from the inorganic constituents with a higher specific gravity in a centrifuge, and the reaction product is decanted off and distilled in vacuo. 1,804 g (91% of theory) of N-α-methoxyethyl-N-methylacetamide of boiling point1.0 48° are obtained.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium hydroxide | 900 g | [OH-].[Na+]
reactant | methyl chloride | 300 g | CCl | CH3Cl
reactant | N-α-methoxyethyl-acetamide | 1,760 g | COC(C)NC(C)=O | C5H11NO2
reactant | methyl chloride | 1,000 g | CCl | CH3Cl
product | N-α-Methoxyethyl-N-methyl-acetamide | COC(C)N(C(C)=O)C | C6H13NO2
